US06812237B2
A solution of benzyl (R)-2-trifluoromethanesulfonyloxy-3-(3-methylphenyl)-propionate (0.59 g, 1.47 mmol) and methyl 3-aminobenzoate (0.44 g, 2.94 mmol) in CH2Cl2 (20 mL) is stirred overnight at room temp for 2 days. Solvent is evaporated, and the residue is chromatographed (silica, 33% CH2Cl2/hexane) to yield benzyl (S)-2-(3-methoxycarbonylphenylamino)-3-(3-methylphenyl)-propionate, as a clear oil.

reactant | benzyl (R)-2-trifluoromethanesulfonyloxy-3-(3-methylphenyl)-propionate | 1.47 mmol, 0.59 g | FC(S(=O)(=O)O[C@@H](C(=O)OCC1=CC=CC=C1)CC1=CC(=CC=C1)C)(F)F | C18H17F3O5S
reactant | methyl 3-aminobenzoate | 2.94 mmol, 0.44 g | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | benzyl (S)-2-(3-methoxycarbonylphenylamino)-3-(3-methylphenyl)-propionate | COC(=O)C=1C=C(C=CC1)N[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC(=CC=C1)C | C25H25NO4
